US04965284
2,8-Diacetyldibenzothiophene
To a solution of 45.3 g of 2-dibenzothienyl methyl ketone in one liter of carbon disulfide was added 106 g of anhydrous aluminum chloride. To this was added 17.3 g of acetyl chloride over 8 minutes. This mixture was refluxed for 3 hours and then poured into a mixture of 2 liters of crushed ice and 400 ml of concentrated hydrochloride acid. This mixture was stirred until the green color had changed to pale tan, then the solid was collected washed with water and air dried. This solid was collected, washed with water and air dried. This solid was dissolved in 2 liters of hot acetontride, filtered, concentrated to about one liter and allowed to crystallize, giving 39.0 g of the desired product as tan crystals, mp 207°-210° C.

reactant | 2-dibenzothienyl methyl ketone | 45.3 g | CC(=O)C1=CC2=C(SC3=C2C=CC=C3)C=C1 | C14H10OS
reactant | aluminum chloride | 106 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 17.3 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloride | 400 ml | Cl | ClH
solvent | carbon disulfide | one liter | C(=S)=S | CS2
product | 2,8-Diacetyldibenzothiophene | 39.0 g | C(C)(=O)C1=CC2=C(SC3=C2C=C(C=C3)C(C)=O)C=C1 | C16H12O2S
